US07985755B2
5-[4-(2,4-Dichloro-benzyl)-piperazin-1-yl]-quinazoline-2,4-diamine
Title compound was prepared via Resin Method using 5-piperazin-1-yl-quinazoline-2,4-diamine (50 mg; 0.2 mmol) and 2,4-Dichlorobenzyl Chloride (72.3 mg; 0.37 mmol) to obtain 48.3 mg. (60% yield). 1H NMR (400 MHz, DMSO-d6) δ 9.71 (s, 1H), 8.49 (s, 1H), 7.60 (m, 3H), 7.44 (m, 1H), 7.16 (m, 2H), 3.66 (s, 2H), 3.02 (br d, J=10.8 Hz, 3H), 2.90 (m, 4H), 2.41 (m, 2H). ESIMS+403.5 m/z

reactant | 5-piperazin-1-yl-quinazoline-2,4-diamine | 0.2 mmol, 50 mg | N1(CCNCC1)C1=C2C(=NC(=NC2=CC=C1)N)N | C12H16N6
reactant | 2,4-Dichlorobenzyl Chloride | 0.37 mmol, 72.3 mg | ClC1=C(CCl)C=CC(=C1)Cl | C7H5Cl3
product | 5-[4-(2,4-Dichloro-benzyl)-piperazin-1-yl]-quinazoline-2,4-diamine | 60% yield | ClC1=C(CN2CCN(CC2)C2=C3C(=NC(=NC3=CC=C2)N)N)C=CC(=C1)Cl | C19H20Cl2N6
